US05117057
To a stirred solution of N'-t-butyl-N,N'-dibenzoylhydrazine (3 g, 0.011M) in DMF (30 ml) at room temperature under nitrogen was added portionwise sodium hydride (60% oil dispersion) (0.5 g, 0.012M). The mixture was stirred at room temperature for 0.5 hours, and then allyl iodide (1.8 g, 0.01M) was added dropwise. The reaction mixture was warmed to 60° C. and stirred for 2 hours. The mixture was then diluted with water (50 ml), neutralized with 10% HCl, and the product extracted into methylene chloride (50 ml). The methylene chloride layer was washed with water (5×20 ml), dried over anhydrous magnesium sulfate, and the methylene chloride removed under vacuum to afford N-allyl-N'-t-butyl-N,N'-dibenzoylhydrazine as an oil.

reactant | N'-t-butyl-N,N'-dibenzoylhydrazine | 0.011M, 3 g | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C18H20N2O2
reactant | sodium hydride | 0.012M, 0.5 g | [H-].[Na+]
reactant | allyl iodide | 0.01M, 1.8 g | C(C=C)I | C3H5I
reactant | HCl | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-allyl-N'-t-butyl-N,N'-dibenzoylhydrazine | C(C=C)N(N(C(C1=CC=CC=C1)=O)C(C)(C)C)C(C1=CC=CC=C1)=O | C21H24N2O2
